US09351973B2
Synthesis of 3-bromo-5-cyclopropyl-4-methylpyridine (J)
Cesium carbonate (2.59 g, 0.00797 mol) was added to a stirred solution of 3,5-dibromo-4-methylpyridine (1.0 g, 0.0039 mol) and cyclopropylboronic acid (0.34 g, 0.0039 mol) in the mixture of 1,4-dioxan (35 mL) and water (15 mL). The reaction mixture was purged with argon for 20 min. Next, Pd(dppf)2Cl2 (0.14 g, 0.000199 mol) was added. The reaction mixture was heated at 100° C. and for 6 h. It was cooled to room temperature, filtered through a bed of CELITE and the bed was thoroughly washed with ethyl acetate. The filtrate was concentrated under vacuum. The residue was dissolved with dichloromethane, washed with water and saturated sodium chloride solution, dried over sodium sulphate, concentrated under vacuum and purified by silica gel (60-120) column chromatography with 0-2.5% ethyl acetate in hexane to afford the title compound. 1H NMR (400 MHz, CdCl3) δ 8.51 (s, 1 H), 8.17 (s, 1 H), 2.52 (s, 3 H), 1.87-1.82 (m, 1 H), 1.03-0.99 (m, 2 H), 0.71-0.68 (m, 2 H). MS (M+1): 211.8.

reactant | Cesium carbonate | 0.00797 mol, 2.59 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,5-dibromo-4-methylpyridine | 0.0039 mol, 1.0 g | BrC=1C=NC=C(C1C)Br | C6H5Br2N
reactant | cyclopropylboronic acid | 0.0039 mol, 0.34 g | C1(CC1)B(O)O | C3H7BO2
reactant | 1,4-dioxan | 35 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 0.000199 mol, 0.14 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 15 mL | O | H2O
product | 3-bromo-5-cyclopropyl-4-methylpyridine | BrC=1C=NC=C(C1C)C1CC1 | C9H10BrN
